US07544812B2
A mixture of 3-(4-hydroxy-phenyl)-2-methoxy-propionic acid ethyl ester 0.027 g, 0.120 mmol), toluene-4-sulfonic acid 2-[3-methyl-2-oxo-1-(4-trifluoromethyl-benzyl)-imidazolidin-4-yl]-ethyl ester (0.061 g, 0.133 mmol) and Cs2CO3 (0.059 g, 0.181 mmol) in DMF (4 mL) was heated to 55° C. under N2 for 16 h. The reaction was cooled and quenched with 1 N HCl (10 mL) and worked up extractively with Et2O and water. The organic layer was dried (MgSO4) and the solvent removed in vacuo to afford crude product that was purified by flash chromatography using 4:1 then 3:1 hexanes:acetone to afford 0.040 g (64%) 2-methoxy-3-(4-{2-[3-methyl-2-oxo-1-(4-trifluoromethyl-benzyl)-imidazolidin-4-yl]-ethoxy}-phenyl)-propionic acid ethyl ester. 1H NMR. MS (ES+) Calc'd for C26H32N2O5F3 (M+1) 509. Found m/z 509 (100%).

reactant | 3-(4-hydroxy-phenyl)-2-methoxy-propionic acid ethyl ester | 0.120 mmol, 0.027 g | C(C)OC(C(CC1=CC=C(C=C1)O)OC)=O | C12H16O4
reactant | toluene-4-sulfonic acid 2-[3-methyl-2-oxo-1-(4-trifluoromethyl-benzyl)-imidazolidin-4-yl]-ethyl ester | 0.133 mmol, 0.061 g | CN1C(N(CC1CCOS(=O)(=O)C1=CC=C(C=C1)C)CC1=CC=C(C=C1)C(F)(F)F)=O | C21H23F3N2O4S
reactant | Cs2CO3 | 0.181 mmol, 0.059 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 2-methoxy-3-(4-{2-[3-methyl-2-oxo-1-(4-trifluoromethyl-benzyl)-imidazolidin-4-yl]-ethoxy}-phenyl)-propionic acid ethyl ester | 0.040 g, 64% | C(C)OC(C(CC1=CC=C(C=C1)OCCC1N(C(N(C1)CC1=CC=C(C=C1)C(F)(F)F)=O)C)OC)=O | C26H31F3N2O5
